US07071175B1
A mixture of 3-trifluoromethanesulfonyloxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (3.85 g, 13.8 mmol) and LiBr (3.61 g, 42 mmol) in dry acetone (30 mL) was refluxed overnight. The reaction mixture was allowed to cool to room temperature, filtered and concentrated. The residue was dissolved in CH2Cl2 and washed with water, dried and concentrated under reduced pressure to give 6 g of the crude product. Purification by flash chromatography (Heptane/EtOAc: 1/0→68/32) afforded of 3-bromomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (2.84 g, 78%) as a colourless oil.

reactant | 3-trifluoromethanesulfonyloxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 13.8 mmol, 3.85 g | C(C)(C)(C)OC(=O)N1CC(CC1)COS(=O)(=O)C(F)(F)F | C11H18F3NO5S
reactant | LiBr | 42 mmol, 3.61 g | [Li+].[Br-]
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 3-bromomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.84 g, 78% | C(C)(C)(C)OC(=O)N1CC(CC1)CBr | C10H18BrNO2
